US09023847B2
100. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3-(4-fluoro-benzoylamino)-benzylamide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using N[3-(aminomethyl)phenyl]-4-fluorobenzamide instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 486 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, s) 10.39 (1H, s) 10.26 (1H, s) 8.66-8.78 (1H, m) 8.02 (4H, dt, J=5.48, 2.70 Hz) 7.81 (1H, d, J=5.42 Hz) 7.68 (2H, d, J=8.20 Hz) 7.51 (1H, d, J=5.47 Hz) 7.24-7.40 (5H, m) 7.06 (1H, d, J=7.42 Hz) 6.86 (1H, d, J=5.52 Hz) 6.43 (1H, dd, J=3.54, 1.93 Hz) 4.47 (2H, d, J=5.86 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | N[3-(aminomethyl)phenyl]-4-fluorobenzamide | NCC=1C=C(C=CC1)NC(C1=CC=C(C=C1)F)=O | C14H13FN2O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3-(4-fluoro-benzoylamino)-benzylamide | FC1=CC=C(C(=O)NC=2C=C(CNC(=O)C=3SC=CC3NC3=C4C(=NC=C3)NC=C4)C=CC2)C=C1 | C26H20FN5O2S
